US07435837B2
Treatment of (±)-(7-bromo-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate (0.50 g, 1.305 mmol) with (2,3-dimethylphenyl)boronic acid (0.294 g, 1.96 mmol) generally according to the procedure described for Intermediate 184 provided 0.335 g (62%) of (±)-[7-(2,3-dimethylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate as a white solid. Rf=0.43 (silica, ethyl acetate:hexanes 1:4).

reactant | (±)-(7-bromo-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate | 1.305 mmol, 0.50 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2Br | C16H15BrO4S
reactant | (2,3-dimethylphenyl)boronic acid | 1.96 mmol, 0.294 g | CC1=C(C=CC=C1C)B(O)O | C8H11BO2
product | (±)-[7-(2,3-dimethylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 0.335 g, 62% | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2C2=C(C(=CC=C2)C)C | C24H24O4S
